US07914862B2
In a reactor under nitrogen atmosphere, 30 mL of THF was added to 9.7 g of methoxymethyltriphenylphosphonium chloride, and the mixture was cooled to −20° C., to which 3.1 g of t-BuOK was added, followed by stirring for 1 hour. A solution containing 6.6 g of 4-(4-ethoxy-2,3-difluorophenoxymethyl)cyclohexane carboaldehyde obtained in the seventh step dissolved in 70 mL of THF was added dropwise thereto, followed by stirring for 1 hour. The temperature of the reaction mixture was increased to room temperature, to which 100 mL of water was added, and the mixture was extracted three times with 100 mL toluene. The resulting organic layer was washed with water, dried over anhydrous magnesium sulfate, and the solvent was concentrated under reduced pressure to about 100 mL, and the concentrated solution was placed in 500 mL of n-hexane, followed by removing deposited solid matters. The solvent was distilled off from the resulting solution under reduced pressure, and the residue was purified by silica gel column chromatography to provide 6.5 g of 1-ethoxy-2,3-difluoro-4-[4-(2-methoxyvinyl)cyclohexylmethoxy]benzene.

reactant | methoxymethyltriphenylphosphonium chloride | 9.7 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | t-BuOK | 3.1 g | CC(C)(C)[O-].[K+]
reactant | 4-(4-ethoxy-2,3-difluorophenoxymethyl)cyclohexane carboaldehyde | 6.6 g | C(C)OC1=C(C(=C(OCC2CCC(CC2)C=O)C=C1)F)F | C16H20F2O3
reactant | water | 100 mL | O | H2O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-ethoxy-2,3-difluoro-4-[4-(2-methoxyvinyl)cyclohexylmethoxy]benzene | 6.5 g | C(C)OC1=C(C(=C(C=C1)OCC1CCC(CC1)C=COC)F)F | C18H24F2O3
